US05629406
Ethyl 4-(N-benzyloxycarbonyl-N-methylamino)phenoxyacetate
0.29 g (6.83 mmol) of sodium hydride (as a 55% w/w dispersion in mineral oil) was added, whilst ice-cooling, to a solution of 1.50 g (4.55 mmol) of ethyl 4-(benzyloxycarbonylamino)phenoxyacetate (prepared as described in Preparation 14) in 9 ml of dimethylformamide, and the mixture was stirred for 20 minutes, after which 0.57 ml (9.10 mmol) of methyl iodide was added to the reaction mixture. The mixture was then stirred at room temperature for 4 hours. At the end of this time, the reaction mixture was neutralized with 1N aqueous hydrochloric acid, and the solvent was removed by distillation under reduced pressure. The resulting residue was mixed with ethyl acetate, and the resulting organic solution was washed with 1N aqueous hydrochloric acid, with a 5% w/v aqueous solution of sodium hydrogencarbonate, with a 5% w/v aqueous solution of sodium thiosulfate and with a saturated aqueous solution of sodium chloride, in that order. The reaction mixture was then dried over anhydrous sodium sulfate, and the solvent was removed by distillation under reduced pressure. The resulting residue was purified by preparative thin layer chromatography, using a 3:2 by volume mixture of hexane and ethyl acetate as the developing solvent, to give 0.69 g of the title compound as an oil.

reactant | sodium hydride | 6.83 mmol, 0.29 g | [H-].[Na+]
reactant | ethyl 4-(benzyloxycarbonylamino)phenoxyacetate | 4.55 mmol, 1.50 g | C(C1=CC=CC=C1)OC(=O)NC1=CC=C(OCC(=O)OCC)C=C1 | C18H19NO5
reactant | methyl iodide | 9.10 mmol, 0.57 ml | CI | CH3I
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | dimethylformamide | 9 ml | CN(C=O)C | C3H7NO
product | Ethyl 4-(N-benzyloxycarbonyl-N-methylamino)phenoxyacetate | 0.69 g | C(C1=CC=CC=C1)OC(=O)N(C)C1=CC=C(OCC(=O)OCC)C=C1 | C19H21NO5
